US06737417B2
6-Methoxy-1-(2-propenyl)-2-naphthol (18.77 g, 87.6 mmol) was dissolved in dichloromethane (300 ml). To this solution, pyridine (21.3 ml, 262.8 mmol) and trifluoromethanesulfonic anhydride (22.1 ml, 131.4 mmol) were added dropwise at 0° C., and the resulting mixture was stirred for 30 minutes. After the reaction was completed, water was added at 0° C. to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with dilute hydrochloric acid and saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/9) to give 6-methoxy-1-(2-propenyl)-2-naphthyl trifluoromethanesulfonate (30.8 g, Yield 100%).

reactant | 6-Methoxy-1-(2-propenyl)-2-naphthol | 87.6 mmol, 18.77 g | COC=1C=C2C=CC(=C(C2=CC1)CC=C)O | C14H14O2
reactant | pyridine | 262.8 mmol, 21.3 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 131.4 mmol, 22.1 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | O | H2O
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 6-methoxy-1-(2-propenyl)-2-naphthyl trifluoromethanesulfonate | 30.8 g, Yield 100% | FC(S(=O)(=O)OC1=C(C2=CC=C(C=C2C=C1)OC)CC=C)(F)F | C15H13F3O4S
